US07745477B2
To a solution of 3-cyclopropyl-4-fluorophenylamine (210 mg, 1.39 mmol) in DME (1.5 ml) was added caesium iodide (360 mg, 1.39 mmol), cuprous iodide (82 mg, 0.43 mmol), iodine (176 mg, 0.70 mmol) and isoamyl nitrite (1.11 ml, 8.34 mmol). The reaction mixture was heated to 60° C. for 2 h. The reaction mixture was cooled to RT and partitioned between pentane and sat. NH4Cl solution. The organic layer was separated, washed with 5% sodium thiosulfite and brine, dried (MgSO4), filtered and concentrated in vacuo to give a residue which was purified by flash column chromatography (100% pentane) to yield the desired 2-cyclopropyl-1-fluoro-4-iodobenzene (262 mg, 72%) as a colorless oil. 1H NMR (CDCl3, 300 MHz): 7.40 (m, 1H), 7.17 (m, 1H), 6.76 (m, 1H), 2.02 (m, 1H), 1.03-0.96 (m, 2H), 0.74-0.68 (m, 2H).

reactant | 3-cyclopropyl-4-fluorophenylamine | 1.39 mmol, 210 mg | C1(CC1)C=1C=C(C=CC1F)N | C9H10FN
reactant | caesium iodide | 1.39 mmol, 360 mg | [I-].[Cs+]
reactant | iodine | 0.70 mmol, 176 mg | II | I2
reactant | isoamyl nitrite | 8.34 mmol, 1.11 ml | N(=O)OCCC(C)C | C5H11NO2
solvent | DME | 1.5 ml | COCCOC | C4H10O2
product | 2-cyclopropyl-1-fluoro-4-iodobenzene | 262 mg, 72% | C1(CC1)C1=C(C=CC(=C1)I)F | C9H8FI
